US07449460B2
Following the procedure of Example 1, a mixture of 2.4 g (9.72 mmol) 4-chloro-6-ethoxy-7-fluoro-3-quinolinecarbonitrile, 2.56 g (10.7 mmol) of 3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)phenylamine and 1.2 g (10.38 mmol) of pyridine hydrochloride are refluxed in 2-ethoxyethanol (30 mL) at 110°0 C. for 1 hour to yield 4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)sulfanyl]phenyl}amino)-6-ethoxy-7-fluoro-3-quinolinecarbonitrile as a pink solid, mp 251-254° C.

reactant | 4-chloro-6-ethoxy-7-fluoro-3-quinolinecarbonitrile | 9.72 mmol, 2.4 g | ClC1=C(C=NC2=CC(=C(C=C12)OCC)F)C#N | C12H8ClFN2O
reactant | 3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)phenylamine | 10.7 mmol, 2.56 g | ClC=1C=C(C=CC1SC=1N(C=CN1)C)N | C10H10ClN3S
reactant | pyridine hydrochloride | 10.38 mmol, 1.2 g | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 30 mL | C(C)OCCO | C4H10O2
product | 4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)sulfanyl]phenyl}amino)-6-ethoxy-7-fluoro-3-quinolinecarbonitrile | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)OCC)F)C#N | C22H17ClFN5OS
